US07435837B2
Treatment of (±)-(7-tert-butyl-5-methoxy-2,3-dihydro-1-benzofuran-2-yl)methylamine (1.03 g, 3.8 mmol) with diisopropylethylamine (0.735 g, 5.7 mmol) and benzyl chloroformate (0.711 g, 4.2 mmol) generally according to the procedure described for Intermediate 12 gave 1.2 g (59%) of (±)-benzyl(7-tert-butyl-5-methoxy-2,3-dihydro-1-benzofuran-2-yl)methylcarbamate as a colorless oil. Rf=0.51 (silica, ethyl acetate:hexanes 2:8); Anal. calcd. for C22H27NO4 C, 71.52; H, 7.37; N, 3.79. Found C, 71.2; H, 7.44; N, 3.77.

reactant | (±)-(7-tert-butyl-5-methoxy-2,3-dihydro-1-benzofuran-2-yl)methylamine | 3.8 mmol, 1.03 g | C(C)(C)(C)C1=CC(=CC=2CC(OC21)CN)OC | C14H21NO2
reactant | diisopropylethylamine | 5.7 mmol, 0.735 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 4.2 mmol, 0.711 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl(7-tert-butyl-5-methoxy-2,3-dihydro-1-benzofuran-2-yl)methylcarbamate | 1.2 g, 59% | C(C1=CC=CC=C1)OC(NCC1OC2=C(C1)C=C(C=C2C(C)(C)C)OC)=O | C22H27NO4
